US07414142B2
To a stirred mixture of 5-(3,3-dimethyl-1-oxo-2,3-dihydro-1H-inden-5-yl)-1-methyl-1H-pyrrole-2-carbonitrile (0.07 g, 0.26 mmol) in ethanol (1.6 mL)/water (0.4 mL) was added sodium acetate (0.03 g, 0.34 mmol) and hydroxylamine hydrochloride (0.02 g, 0.32 mmol). The resulting mixture was heated to reflux for 5 hours. The solution was allowed to cool to room temperature, diluted with water, and filtered to give 5-[(1E)-1-(hydroxyimino)-3,3-dimethyl-2,3-dihydro-1H-inden-5-yl]-1-methyl-1H-pyrrole-2-carbonitrile as a white solid (0.04 g, 55%). MS (ES) m/z 280.1. HRMS: calcd for C17H17N3O+H+, 280.14444; found (ESI, [M+H]+), 280.145.

reactant | 5-(3,3-dimethyl-1-oxo-2,3-dihydro-1H-inden-5-yl)-1-methyl-1H-pyrrole-2-carbonitrile | 0.26 mmol, 0.07 g | CC1(CC(C2=CC=C(C=C12)C1=CC=C(N1C)C#N)=O)C | C17H16N2O
reactant | sodium acetate | 0.34 mmol, 0.03 g | C(C)(=O)[O-].[Na+]
reactant | hydroxylamine hydrochloride | 0.32 mmol, 0.02 g | Cl.NO
solvent | ethanol | 1.6 mL | C(C)O | C2H6O
solvent | water | O | H2O
solvent | water | 0.4 mL | O | H2O
product | 5-[(1E)-1-(hydroxyimino)-3,3-dimethyl-2,3-dihydro-1H-inden-5-yl]-1-methyl-1H-pyrrole-2-carbonitrile | 0.04 g, 55% | O\N=C\1/CC(C2=CC(=CC=C12)C1=CC=C(N1C)C#N)(C)C | C17H17N3O
